US03947456
The free base released from 6.5 g. of rac.-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline hydrochloride is heated at 120°C. (bath temperature) for 1 hour with 10 ml. of formic acid and 10 ml. of 35% formalin solution. After evaporation, extraction with sodium carbonate solution and methylene chloride and acidification with ethanolic hydrogen chloride, there is obtained rac.-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-2-methylisoquinoline hydrochloride which is recrystallized from methanol-ether and then melts at 243°-246°C. (softening at 238°C). The free base melts at 115°-116°C. after recrystallization from ether-petroleum ether.

reactant | rac.-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1CNCC2=CC(=C(C=C12)OC)OC
reactant | formalin | C=O | CH2O
solvent | formic acid | C(=O)O | CH2O2
product | rac.-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-2-methylisoquinoline hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=C(C=C12)OC)OC)C | InChI=1S/C18H19Cl2NO2.ClH/c1-21-9-12-7-17(22-2)18(23-3)8-13(12)14(10-21)11-4-5-15(19)16(20)6-11;/h4-8,14H,9-10H2,1-3H3;1H
